US06365671B1
1,1-dibromo-2,2-bis(4-cyanatophenyl)ethylene
A 4-necked 5-L flask, equipped with a mechanical stirrer, a thermometer, and an additional funnel, is charged with methyl isobutyl ketone (1500 g), 1,1-dibromo-2,2-bis(4-hydroxyphenyl)ethene (420 g), and cyanogen bromide (270 g). The resulting solution is cooled to −20° C. with a dry ice/acetone bath. To the stirring solution, triethylamine (240 g) in the additional funnel is added dropwise. The reaction temperature is maintained below −20° C. After the addition, the resulting mixture is allowed to warm up to 0° C. and quenched with dilute HCl aqueous solution. The organic layer is washed further with water several times and concentrated under vacuum to afford the desired product.

reactant | methyl isobutyl ketone | 1500 g | C(C(C)C)C(=O)C | C6H12O
reactant | 1,1-dibromo-2,2-bis(4-hydroxyphenyl)ethene | 420 g | BrC(=C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)Br | C14H10Br2O2
reactant | cyanogen bromide | 270 g | N#CBr | CBrN
reactant | triethylamine | 240 g | C(C)N(CC)CC | C6H15N
product | 1,1-dibromo-2,2-bis(4-cyanatophenyl)ethylene | BrC(=C(C1=CC=C(C=C1)OC#N)C1=CC=C(C=C1)OC#N)Br | C16H8Br2N2O2
